Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[CH:1][c:2]1[cH:3][n:4][n:5]2[c:6]([NH:7][CH:8]3[CH2:9][CH2:10]3)[cH:11][c:12]([NH:13][c:14]3[cH:15][c:16]([F:17])[cH:18][c:19]([F:20])[cH:21]3)[n:22][c:23]12.[O:24]=[C:25]1[CH2:26][NH:27][C:28](=[O:29])[NH:30]1>>[CH:1](\[c:2]1[cH:3][n:4][n:5]2[c:6]([NH:7][CH:8]3[CH2:9][CH2:10]3)[cH:11][c:12]([NH:13][c:14]3[cH:15][c:16]([F:17])[cH:18][c:19]([F:20])[cH:21]3)[n:22][c:23]12)=[C:26]1/[C:25](=[O:24])[NH:30][C:28](=[O:29])[NH:27]1,[O:101]=[CH:1][c:2]1[cH:3][n:4][n:5]2[c:6]([NH:7][CH:8]3[CH2:9][CH2:10]3)[cH:11][c:12]([NH:13][c:14]3[cH:15][c:16]([F:17])[cH:18][c:19]([F:20])[cH:21]3)[n:22][c:23]12.[O:24]=[C:25]1[CH2:26][NH:27][C:28](=[O:29])[NH:30]1.[OH-:301]>>[CH:1](\[c:2]1[cH:3][n:4][n:5]2[c:6]([NH:7][CH:8]3[CH2:9][CH2:10]3)[cH:11][c:12]([NH:13][c:14]3[cH:15][c:16]([F:17])[cH:18][c:19]([F:20])[cH:21]3)[n:22][c:23]12)=[C:26]1/[C:25](=[O:24])[NH:30][C:28](=[O:29])[NH:27]1,aldol_condensation,"[(301, 26.1), ([26.1, 26], [26, 25]), ([25, 24], 24), (24, [24, 25]), ([25, 26], 1), ([1, 101], 101), (101, 301.1), ([301.1, 301], 301), (301, 26.1), ([26.1, 26], [26, 25]), ([25, 24], 24), (24, [24, 25]), ([25, 26], [26, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[N:1]([CH3:2])[CH2:3][c:4]1[n:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][cH:11][c:12]2[F:13])[c:14]([S:15](=[O:16])(=[O:17])[c:18]2[cH:19][cH:20][cH:21][c:22]([C:23](=[O:24])[N:25]3[CH2:26][CH2:27][CH2:28][CH2:29]3)[cH:30]2)[s:31]1>>[NH:1]([CH3:2])[CH2:3][c:4]1[n:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][cH:11][c:12]2[F:13])[c:14]([S:15](=[O:16])(=[O:17])[c:18]2[cH:19][cH:20][cH:21][c:22]([C:23](=[O:24])[N:25]3[CH2:26][CH2:27][CH2:28][CH2:29]3)[cH:30]2)[s:31]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]([CH3:2])[CH2:3][c:4]1[n:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][cH:11][c:12]2[F:13])[c:14]([S:15](=[O:16])(=[O:17])[c:18]2[cH:19][cH:20][cH:21][c:22]([C:23](=[O:24])[N:25]3[CH2:26][CH2:27][CH2:28][CH2:29]3)[cH:30]2)[s:31]1.[H+:301]>>[NH:1]([CH3:2])[CH2:3][c:4]1[n:5][c:6](-[c:7]2[cH:8][cH:9][cH:10][cH:11][c:12]2[F:13])[c:14]([S:15](=[O:16])(=[O:17])[c:18]2[cH:19][cH:20][cH:21][c:22]([C:23](=[O:24])[N:25]3[CH2:26][CH2:27][CH2:28][CH2:29]3)[cH:30]2)[s:31]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1](=[O:2])/[CH:3]=[CH:4]/[c:5]1[cH:24][cH:23][c:8]([CH:9]=[CH:10][c:11]2[n:12][c:13](-[c:14]3[cH:19][cH:18][cH:17][cH:16][cH:15]3)[o:20][c:21]2[CH3:22])[cH:7][cH:6]1>>[CH2:1]([OH:2])/[CH:3]=[CH:4]/[c:5]1[cH:6][cH:7][c:8](/[CH:9]=[CH:10]/[c:11]2[n:12][c:13](-[c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[o:20][c:21]2[CH3:22])[cH:23][cH:24]1,CC[O:101][C:1](=[O:2])/[CH:3]=[CH:4]/[c:5]1[cH:6][cH:7][c:8]([CH:9]=[CH:10][c:11]2[n:12][c:13](-[c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[o:20][c:21]2[CH3:22])[cH:23][cH:24]1.[AlH4-:301].[AlH4-:302].[H+:303]>>[CH2:1]([OH:2])/[CH:3]=[CH:4]/[c:5]1[cH:6][cH:7][c:8](/[CH:9]=[CH:10]/[c:11]2[n:12][c:13](-[c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[o:20][c:21]2[CH3:22])[cH:23][cH:24]1,ester_reduction,"[([301, 301.1], 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 2], 2), (2, 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])OC(OC(C)(C)C)=O.[NH2:8][c:9]1[cH:10][cH:11][c:12]([N:13]2[CH2:14][CH2:15][CH2:16][C@@H:17]([C:18](=[O:19])[N:20]3[CH2:21][CH2:22][CH2:23][CH2:24]3)[CH2:25]2)[n:26][c:27]1[NH2:28]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:8][c:9]1[cH:10][cH:11][c:12]([N:13]2[CH2:14][CH2:15][CH2:16][C@@H:17]([C:18](=[O:19])[N:20]3[CH2:21][CH2:22][CH2:23][CH2:24]3)[CH2:25]2)[n:26][c:27]1[NH2:28],[NH2:8][c:9]1[cH:10][cH:11][c:12]([N:13]2[CH2:14][CH2:15][CH2:16][C@@H:17]([C:18](=[O:19])[N:20]3[CH2:21][CH2:22][CH2:23][CH2:24]3)[CH2:25]2)[n:26][c:27]1[NH2:28].CC(C)(C)[O:202][C:201](=O)[O:101][C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:8][c:9]1[cH:10][cH:11][c:12]([N:13]2[CH2:14][CH2:15][CH2:16][C@@H:17]([C:18](=[O:19])[N:20]3[CH2:21][CH2:22][CH2:23][CH2:24]3)[CH2:25]2)[n:26][c:27]1[NH2:28],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(8, 6), ([6, 7], 7), (7, [7, 6]), ([6, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
